US04038396
Ten grams of 4-(cyanomethyl)benzoic acid is refluxed in 70 mls. of thionyl chloride for four hours. The solvents are removed leaving a residue of 4-cyanomethylbenzoyl chloride. To a solution of 5.5 g. of 3-amino-2-hydroxy pyridine in cold pyridine there is added slowly, with cooling, 8 g. of 4-cyanomethyl benzoyl chloride. The mixture is allowed to come to room temperature and stirred overnight. The mixture is added to 300 ml. of ice and the solid amide separated by filtration and recrystallized from methanol. A mixture of 3 g. of the above amide in 50 mls. of phosphorus oxychloride is heated under reflux for 5 hours. The solvents are removed in vacuo and the residue is crystallized from ethyl acetate to give 2-(4-cyanomethylphenyl)oxazolo[5,4-b]pyridine.

reactant | 4-(cyanomethyl)benzoic acid | Ten grams | C(#N)CC1=CC=C(C(=O)O)C=C1 | C9H7NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-cyanomethylbenzoyl chloride | C(#N)CC1=CC=C(C(=O)Cl)C=C1 | C9H6ClNO
